US09102692B2
2-[(E)-4-Imidazol-1-yl-phenylimino]-propionic acid ethyl ester (842 mg) was added to an Eaton's reagent (4 ml), and this was stirred at 100° C. for one hour. After adjusting the pH of the reaction mixture to 11 using an aqueous solution (about 10 ml) of 20% potassium phosphate, the mixture was extracted with ethyl acetate (30 ml). The organic layer was washed with an aqueous solution saturated with sodium chloride (20 ml), and the organic layer was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane/methanol). Thus, 5-imidazol-1-yl-1H-indole-2-carboxylic acid ethyl ester was obtained as a yellow amorphous material (370 mg, 47%).

reactant | 2-[(E)-4-Imidazol-1-yl-phenylimino]-propionic acid ethyl ester | 842 mg | C(C)OC(/C(/C)=N/C1=CC=C(C=C1)N1C=NC=C1)=O | C14H15N3O2
reactant | Eaton's reagent | 4 ml | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
solvent | potassium phosphate | about 10 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 5-imidazol-1-yl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)N1C=NC=C1 | C14H13N3O2
